US08871934B2
t-butyl 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionate
4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane (5.82 g), acetonitrile (50 ml), cesium fluoride (455.7 mg) and t-butyl acrylate (5.7 ml) were mixed at room temperature, and the mixture was stirred at 80° C. for 17.5 hr. The reaction mixture was cooled to room temperature, and concentrated under reduced pressure. To the obtained residue were added water and ethyl ether, and the mixture was partitioned in a separatory funnel. The aqueous layer was further extracted with ethyl ether, and the organic layers were combined. The organic layer was washed with water and saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (eluent: n-hexane/ethyl acetate=9/1 to 4/6) to give the title compound (8.38 g, 87%).

reactant | 4,4,5,5-Tetramethyl-2-(1H-pyrazol-4-yl)-1,3,2-dioxaborolane | 5.82 g | CC1(OB(OC1(C)C)C=1C=NNC1)C | C9H15BN2O2
reactant | cesium fluoride | 455.7 mg | [F-].[Cs+]
reactant | t-butyl acrylate | 5.7 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | t-butyl 3-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-pyrazol-1-yl]-propionate | 8.38 g, 87% | CC1(OB(OC1(C)C)C=1C=NN(C1)CCC(=O)OC(C)(C)C)C | C16H27BN2O4
